US07173031B2
A) 4-(3-Chloro-5-nitropyridin-2-yloxy)-1H-pyrrolo[2,3-b]pyridine
To a solution of 1H-pyrrolo[2,3-b]pyridin-4-ol (210 mg, 1.56 mmol, see: Thibault, C. et al. Org. Lett. 2003, 5, 5023) in 3 mL of MeCN was added K2CO3 (240 mg, 1.74 mmol). The suspension was stirred for 10 min and treated with 2,3-dichloro-5-nitropyridine (270 mg, 1.40 mmol, see: Koch, V. and Schnatterer, S. Synthesis, 1990, 499). The reaction mixture was stirred for 12 h and quenched with 20 mL of H2O. The solution was extracted with EtOAc and the organic layer was washed with brine, and dried over MgSO4. After filtration and concentration in vacuo, the residue was purified by flash column chromatography (ISCO RediSep® silica gel cartridge) to give the title compound (220 mg, 54%). MS (ESI) m/z 291.1 (M+H)+.

reactant | 1H-pyrrolo[2,3-b]pyridin-4-ol | 1.56 mmol, 210 mg | N1C=CC2=C1N=CC=C2O | C7H6N2O
reactant | K2CO3 | 1.74 mmol, 240 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2,3-dichloro-5-nitropyridine | 1.40 mmol, 270 mg | ClC1=NC=C(C=C1Cl)[N+](=O)[O-] | C5H2Cl2N2O2
solvent | MeCN | 3 mL | CC#N | C2H3N
product | 4-(3-Chloro-5-nitropyridin-2-yloxy)-1H-pyrrolo[2,3-b]pyridine | 220 mg, 54% | ClC=1C(=NC=C(C1)[N+](=O)[O-])OC1=C2C(=NC=C1)NC=C2 | C12H7ClN4O3
